US04695295
Preparation of 2-(n-Pentyl)-2-Oxazoline
A mixture of about 3.24 grams cadmium oxide, about 3.00 grams acetic acid, about 64.8 grams ethanolamine, and about 98.2 grams hexanenitrile is heated and stirred under nitrogen at about 120 degrees C. to 125 degrees C. for about two days. The liquid is decanted from the catalyst and distilled under vacuum. The fraction boiling at about 86 degrees C. to about 93 degrees C. at about 28 mmHg to about 30 mm Hg is collected.

reactant | ethanolamine | about 64.8 grams | C(O)CN | C2H7NO
reactant | hexanenitrile | about 98.2 grams | C(CCCCC)#N | C6H11N
catalyst | cadmium oxide | about 3.24 grams | [O-2].[Cd+2]
solvent | acetic acid | about 3.00 grams | C(C)(=O)O | C2H4O2
product | 2-(n-Pentyl)-2-Oxazoline | C(CCCC)C=1OCCN1 | C8H15NO
